Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
unresponsiveness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M w/ no known PMH found unresponsive in his car, now 
transferred from ___ for rx of possible fulminant liver 
failure.  

He was given 6 mg of Narcan prior to arrival at ___ with 
minimal effect. He was found hypoxic, altered, elevated lactate, 
transaminases, and infiltrates on chest x-ray. Started on 
N-acetylcysteine and transferred here for further care. 

Per ED:  Patient does admit (which he previously denied) using 
cocaine, fentanyl, marijuana, and etoh.

In ED initial VS: 98.9 88 114/62 14 97% Nasal Cannula
 
Past Medical History:
none
 
Social History:
___
Family History:
not attained
 
Physical Exam:
Admission exam:
===============
VITALS:  98.5, HR 117, BP 132/71, RR 22, O2Sat 95% on RA
GENERAL: lying in bed, appearing tired, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRLA, EOMI, 
pupils 2mm biliterally
NECK: supple
LUNGS: diffuse b/l crackles
CV: tachycardic, no M/R/G
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, pulses present, no clubbing, cyanosis 
or edema, no asterixis  
SKIN: no lesions/rashes/needle stick injuries appreciated
NEURO: lethargic, oriented x3, moving all extremities 
spontaneously
ACCESS:  PIC

Discharge exam:
===============
-VITALS: reviewed in OMR
-GENERAL: alert and awake today - overall looks much better
-HEENT: moist mucus membranes, atraumatic/normocephalic 
-CV: Heart regular, no murmur
-RESP: clear b/l, no wheeze, cough.
-GI: Abdomen soft, non-distended, non-tender to palpation.  
Bowel sounds present. 
-GU: No CVA tenderness, no foley 
-MSK: no edema, no joint swelling 
-SKIN: No rashes or ulcerations noted
-NEURO: AAOx3, no focal neurological deficits  
-PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission labs:
===============
___ 01:35PM BLOOD WBC-12.4* RBC-4.27* Hgb-12.6* Hct-36.9* 
MCV-86 MCH-29.5 MCHC-34.1 RDW-11.9 RDWSD-37.3 Plt ___
___ 01:35PM BLOOD Neuts-82.1* Lymphs-10.3* Monos-6.8 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-10.16* AbsLymp-1.28 
AbsMono-0.84* AbsEos-0.00* AbsBaso-0.05

___ 10:56PM BLOOD ___ PTT-25.4 ___

___ 10:56PM BLOOD Glucose-116* UreaN-13 Creat-1.4* Na-143 
K-5.1 Cl-105 HCO3-22 AnGap-16
___ 10:56PM BLOOD ___ AST-1850* AlkPhos-60 
TotBili-0.4
___ 10:56PM BLOOD Lipase-23
___ 10:56PM BLOOD Albumin-3.1* Calcium-7.5* Phos-2.4* 
Mg-1.7

___ 10:56PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 04:17AM URINE bnzodzp-POS* barbitr-NEG opiates-POS* 
cocaine-POS* amphetm-NEG oxycodn-NEG mthdone-NEG

___ 11:03PM BLOOD ___ pO2-24* pCO2-55* pH-7.29* 
calTCO2-28 Base XS--1
___ 11:03PM BLOOD Lactate-1.8

DISCHARGE LABS
====================
___ 08:20AM BLOOD WBC-10.8* RBC-4.87 Hgb-14.5 Hct-41.0 
MCV-84 MCH-29.8 MCHC-35.4 RDW-11.9 RDWSD-36.1 Plt ___

___ 08:20AM BLOOD Glucose-102* UreaN-9 Creat-0.9 Na-141 
K-3.9 Cl-100 HCO3-25 AnGap-16
___ 08:20AM BLOOD ALT-514* AST-66* AlkPhos-74 TotBili-0.7

___ 05:22PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 08:10AM BLOOD AMA-NEGATIVE
___ 08:10AM BLOOD ___ Titer-1:320*
___ 08:10AM BLOOD IgG-731 IgA-213 IgM-109

IMAGING
==============
-RUQ US: Mild prominence of the common bile duct, measuring up 
to 5 mm.  However, no
evidence of intrahepatic biliary dilatation. Splenomegaly 
measuring up to 15 cm.
-CXR: Multifocal pneumonia and/or hemorrhage.  Differential 
diagnosis also depends upon immune status and renal function.
 
Brief Hospital Course:
___ h/o polysubstance abuse was transferred from ___ ___ 
after being found down to ___ FICU w/ transaminitis (negative 
Tylenol level) started on NAC and b/l PNA w/ hypoxia.  He was 
transferred out of the FICU ___.

1. Transaminitis, supra therapeutic INR - Improving 
-Acetaminophen level negative with suspected insult from cocaine 
s/p completion of NAC protocol.  Overall transaminitis improving 
but not yet normalized.  Liver team evaluated patient 
recommending labs to assess for alternative etiology including 
hepatitis or autoimmune process, which seem to be unrevealing so 
far but will need to be followed up with PCP (pending labs).  
RUQ US also did not show significant abnormality.  Recommend 
repeating LFTs in 1 week.   

2. Multifocal pneumonia w/ sepsis and acute hypoxic respiratory 
failure 
-SIRS (fever, leukocytosis) w/ community acquired PNA vs 
aspiration pneumonia.  Given duration of symptoms this could be 
viral illness or bronchitis.  Although homeless with risk 
factors for TB he does not have other constitutional symptoms 
suggestive of this.  He could also have inhalation injury 
depending on route/form of drug use.  He was initially started 
on IV ceftriaxone and azithromycin and transitioned to PO 
augmenting with overall improvement in his symptoms.  Continue 
antibiotics for total 10 day course given severity/persistence 
of pneumonia/symptoms.  Recommend repeating CXR in 6 weeks. 

3. Polysubstance abuse with acute encephalopathy, homeless 
-UDS positive for cocaine, benzos, and opioids (fentanyl use) w/ 
additional admission of marijuana. Patient has long standing 
history of substance abuse but this is his first admission for 
overdose, and he has never participated in substance abuse 
programs/counseling.  Counseled patient on medical complications 
of overdose as well as social implications.  He has strong 
family history of substance abuse and it appears untreated 
mental health disease, which could be contributing to abuse.  
Social work met with patient and provided him with multiple 
resources and a plan for recovery.  Also stressed the importance 
of establishing care with a PCP.  

4. Mental health disorders
-Patient reports history of bipolar disorder and ADHD not 
currently being treated.  Social work found patient an 
outpatient program who will provide psychotherapy with access to 
a psychiatrist for medications as needed.

>30 minutes spent on discharge planning 
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth Q12hours Disp #*9 Tablet Refills:*0 
2.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin [Robitussin Cough-Chest Cong 
DM] 100 mg-5 mg/5 mL 5 mL by mouth Q8hours PRN Refills:*0 
3.Outpatient Lab Work
-CMP in 1 week
-ICD 10 K71.2
-New PCP to follow up results 
4.Outpatient Imaging 
-CXR 6 weeks
-ICD 10 J18.9
-New PCP to follow up results 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Overdose, polysubstance abuse
Acute liver injury
b/l Pneumonia (community acquired +/- aspiration pneumonia)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted after being found unresponsive from a drug 
overdose.  There was significant damage to your liver, which is 
slowly getting better.  You were also treated for pneumonia.  It 
is very important to stay sober as drug use and overdose can 
cause permanent organ damage/failure and result in death.  
Please establish care with a primary care doctor who can 
continue to follow your liver and also pneumonia.  Please follow 
up with services that social work provided you with; they can 
also help you with management of your mental health concerns 
with medications if needed.  

It was a pleasure taking care of you.
 
Followup Instructions:
___